US07560558B2
5-Fluoro-2-mercaptobenzoic acid (278 mg) and 4-chloro-6,7-dimethoxyquinoline (300 mg) were suspended in acetonitrile (6 ml), and the suspension was stirred at room temperature overnight. The solvent was removed by distillation under the reduced pressure. Water was added to the residue, the mixture was neutralized with sodium hydrogencarbonate and was then extracted with chloroform. The chloroform layer was washed with water and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform-methanol to give 2-(6,7-dimethoxy-quinolin-4-ylsulfanyl)-5-fluoro-benzoic acid (152 mg, yield 31%).

reactant | 5-Fluoro-2-mercaptobenzoic acid | 278 mg | FC=1C=CC(=C(C(=O)O)C1)S | C7H5FO2S
reactant | 4-chloro-6,7-dimethoxyquinoline | 300 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 2-(6,7-dimethoxy-quinolin-4-ylsulfanyl)-5-fluoro-benzoic acid | 152 mg, yield 31% | COC=1C=C2C(=CC=NC2=CC1OC)SC1=C(C(=O)O)C=C(C=C1)F | C18H14FNO4S
